US09102899B2
2-(4-methoxy-phenyl)-3-methyl-but-2-ene nitrile
According to the procedure described by Example 1, p-methoxybenzylcyanide (18.6 g, 127 mmol) is condensed with acetone (50 ml) under addition of methanol (6.5 ml) and KOH (3.33 g, 50 mmol) to yield, after workup and distillation at 111-113° C./0.05 mbar, 2-(4-methoxyphenyl)-3-methyl-but-2-ene nitrile (14.3 g, 18%).

reactant | p-methoxybenzylcyanide | 127 mmol, 18.6 g | COC1=CC=C(CC#N)C=C1 | C9H9NO
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | KOH | 50 mmol, 3.33 g | [OH-].[K+]
solvent | methanol | 6.5 ml | CO | CH4O
product | 2-(4-methoxy-phenyl)-3-methyl-but-2-ene nitrile | COC1=CC=C(C=C1)C(C#N)=C(C)C | C12H13NO
